US07291631B2
2-(4-Methyl-tetrahydro-thiophen-3-ylmethyl)-isoindole-1,3-dione (410.0 mg, 1.59 mmol) and NBS (312.0 mg, 1.75 mmol) were dissolved in CCl4 (8.0 mL). AIBN (100 mg) was added in one portion. The mixture was heated at 85° C. under N2 for 90 min. After cooling down, the mixture was passed through a short silica gel column (4×10 cm), eluted with CH2Cl2. The solution obtained was concentrated and the residue was recrystallized from EtOAc/Hexanes (5/1) to give 2-(4-Bromomethyl-thiophen-3-ylmethyl)-isoindole-1,3-dione (285 mg, 50%) as a white solid. 1H NMR (CDCl3) δ 4.74 (s, 2H), 4.91 (s, 2H), 7.29-7.30 (d, 1H, J=3.3 Hz), 7.70-7.71 (d, 1H, J=3.3 Hz), 7.70-7.73 (m, 2H), 7.82-7.87 (m, 2H).

reactant | 2-(4-Methyl-tetrahydro-thiophen-3-ylmethyl)-isoindole-1,3-dione | 1.59 mmol, 410.0 mg | CC1C(CSC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H15NO2S
reactant | NBS | 1.75 mmol, 312.0 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 8.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-Bromomethyl-thiophen-3-ylmethyl)-isoindole-1,3-dione | 285 mg, 50% | BrCC=1C(=CSC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H10BrNO2S
